US05273986
A solution of 2.7 g of (E)-3-[2-[4-(cyclopentyl)-2-thiazolyl]ethenyl]benzeneamine, 1.78 g of homophthalic anhydride and 40 ml of toluene was heated to reflux for 0.5 hr. Cooling and filtration yielded 3.75 g of (E)-2-[2-[3-[2-[4-(cyclopentyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid; m.p. 209°-210° C. from tetrahydrofuran.

reactant | (E)-3-[2-[4-(cyclopentyl)-2-thiazolyl]ethenyl]benzeneamine | 2.7 g | C1(CCCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C16H18N2S
reactant | homophthalic anhydride | 1.78 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-[3-[2-[4-(cyclopentyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 3.75 g | C1(CCCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C25H24N2O3S
